US04868174
To a suspension of 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate, dihydrochloride (9.8 g) in 1N-hydrochloric acid (39 ml) was added dropwise isopropyl alcohol (46 ml). After being stirred for 1 hour at room temperature, additional isopropyl alcohol (70 ml) was added thereto. The mixture was stirred for further 1 hour at the same temperature to give crystals. The crystals were collected by filtration, washed with isopropyl alcohol and diisopropyl ether and dried over phosphorus pentoxide to give crystalline 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate dihydrochloride.

reactant | 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | C13H19N3O3S
reactant | dihydrochloride | 9.8 g | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrochloric acid | 39 ml | Cl | ClH
solvent | isopropyl alcohol | 70 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 46 ml | C(C)(C)O | C3H8O
product | 7-amino-3-(1-methyl-1-pyrrolidinio)methyl-3-cephem-4-carboxylate dihydrochloride | Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2(CCCC2)C)C(=O)[O-])C1=O | InChI=1S/C13H19N3O3S.2ClH/c1-16(4-2-3-5-16)6-8-7-20-12-9(14)11(17)15(12)10(8)13(18)19;;/h9,12H,2-7,14H2,1H3;2*1H/t9?,12-;;/m1../s1
